US05128470
In a manner analogous to Example 1, 2 g of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalene-carboxylic acid and 1 g of 4-fluoroaniline were used to obtain 1.7 g of 4'-fluoro-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenecarboxanilide in colorless crystals. m.p. 163° C.-165° C. (from ethyl acetate/hexane).

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalene-carboxylic acid | 2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)O)C | C15H20O2
reactant | 4-fluoroaniline | 1 g | FC1=CC=C(N)C=C1 | C6H6FN
product | 4'-fluoro-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenecarboxanilide | 1.7 g | FC1=CC=C(NC(=O)C2=CC=3C(CCC(C3C=C2)(C)C)(C)C)C=C1 | C21H24FNO
